US06313299B1
7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylic acid.
400 mg of 1-cyclopropyl-6-fluoro-7-chloro-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylic acid and 84 g of t-butyl 8-(methoxyimino)-2,6diazaspiro[3,4]octane-2-carboxylate were added to 10 ml of acetonitrile and the resulting mixture was stirred for 3 hours at 45-50° C. Then the precipitated solid was filtered and dried to give 650 mg of the titled compound(yield: 93.9%).

reactant | 1-cyclopropyl-6-fluoro-7-chloro-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylic acid | 400 mg | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)Cl)F)=O)C(=O)O | C12H8ClFN2O3
reactant | t-butyl 8-(methoxyimino)-2,6diazaspiro[3,4]octane-2-carboxylate | 84 g | CON=C1CNCC12CN(C2)C(=O)OC(C)(C)C | C12H21N3O3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct-6-yl]-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxylic acid | 650 mg, yield: 93.9% | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=N2)C2CC2)C(=O)O)=O)F | C24H28FN5O6
